US07329756B2
To achieve the afore-mentioned objects, the present invention provides for a process for the manufacture of the Isradipine which, involves two steps. In the first step 2,1,3-benzoxadiazole-4-carboxaldehyde is reacted with methyl acetoacetate in the presence of acetic acid and piperidine in diisopropyl ether. The product 2-acetyl-3-benzofurazan-4-yl-acrylic acid methyl ester is isolated and purified to get substantially high purity product with less than 0.3% 2,1,3-benzoxadiazole-4-carboxaldehyde content present in the purified product. In the second step the purified intermediate 2-acetyl-3-benzofurazan-4-yl-acrylic acid methyl ester is reacted with isopropyl-β-aminocrotonate in ethanol at 25 to 35° C. The crude Isradipine is crystallised from ethanol to get pure Isradipine having substantially higher purity and containing lower amount of the symmetrical ester isomers (III) and (IV).

reactant | 2-acetyl-3-benzofurazan-4-yl-acrylic acid methyl ester | COC(C(=CC1=CC=CC=2C1=NON2)C(C)=O)=O | C12H10N2O4
reactant | isopropyl-β-aminocrotonate | C(C)(C)OC(\C=C(\C)/N)=O | C7H13NO2
solvent | ethanol | C(C)O | C2H6O
product | Isradipine | CC1=C(C(C(=C(N1)C)C(=O)OC(C)C)C2=CC=CC=3C2=NON3)C(=O)OC | C19H21N3O5
